US05629129
To 500 cc of acetone was added 15.5 g of methylamine to form a mixture. 60.0 g of stearoyl chloride was drop-wise added to the mixture, while the mixture was stirred and cooled using ice water. The addition was conducted at a temperature of not higher than 20° C. Further, 20.2 g of triethylamine was dropwise added to the mixture at a temperature of not higher than 20° C. After the addition was complete, the mixture was allowed to react for 3 hours. The reaction mixture was then poured into water and the aqueous mixture was filtered to collect produced crystals, and the crystals were recrystallized from a mixed solvent of ethyl acetate and methanol to give a white crystalline product of N-methylstearic amide (Amide compound No. 1 mentioned above).

reactant | acetone | 500 cc | CC(=O)C | C3H6O
reactant | methylamine | 15.5 g | CN | CH5N
reactant | stearoyl chloride | 60.0 g | C(CCCCCCCCCCCCCCCCC)(=O)Cl | C18H35ClO
reactant | triethylamine | 20.2 g | C(C)N(CC)CC | C6H15N
solvent | water | O | H2O
product | N-methylstearic amide | CNC(CCCCCCCCCCCCCCCCC)=O | C19H39NO
